US09376422B2
Synthesis of Compound 4: 5-bromo-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-3-(methyl(1-pivaloylpiperidin-4-yl)amino)benzamide
To a stirred solution of 5-bromo-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-3-(methyl(piperidine-4-yl)amino)benzamide (0.05 g, 0.112 mmol) in DMF (2 mL), EDCI.HCl (0.064 g, 0.336 mmol), HOBt (0.03 g, 0.22 mmol), triethyl amine (0.03 g, 0.336 mmol) and pivalic acid (0.023 g, 0.224 mmol) were added at room temperature and stirred at same temperature for 18 h. On completion, water was added and extracted with 10% MeOH/DCM. Combined organic layers were dried, concentrated giving crude material; which then purified by column chromatography to afford the desired compound (0.03 g, 56%). LCMS: 545.20 (M+1)+; HPLC: 98.60% (@ 254 nm) (Rt; 6.355; Method: Column: YMC ODS-A 150 mm×4.6 mm×5μ; Mobile Phase: A; 0.05% TFA in water/B; 0.05% TFA in acetonitrile; Inj. Vol: 10 μL, Col. Temp.: 30° C.; Flow rate.: 1.4 mL/min.; Gradient: 5% B to 95% B in 8 min, Hold for 1.5 min, 9.51-12 min 5% B); 1H NMR (DMSO-d6, 400 MHz) δ 11.46 (s, 1H), 8.20 (t, 1H, J=4.4 Hz), 7.25 (d, 1H, J=2.8 Hz), 7.05 (d, 1H, J=1.2 Hz), 5.85 (s, 1H), 4.23-4.25 (m, 4H), 3.00 (m, 1H), 2.76 (t, 2H, J=12.4 Hz), 2.54 (s, 3H), 2.18 (s, 3H), 2.14 (s, 3H), 2.10 (s, 3H), 1.62-1.65 (m, 2H), 1.42-1.48 (m, 2H), 1.18 (s, 9H).

reactant | 5-bromo-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-3-(methyl(piperidine-4-yl)amino)benzamide | 0.112 mmol, 0.05 g | BrC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C1)C)N(C1CCNCC1)C | C22H29BrN4O2
reactant | EDCI.HCl | 0.336 mmol, 0.064 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.22 mmol, 0.03 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethyl amine | 0.336 mmol, 0.03 g | C(C)N(CC)CC | C6H15N
reactant | pivalic acid | 0.224 mmol, 0.023 g | C(C(C)(C)C)(=O)O | C5H10O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-bromo-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-3-(methyl(1-pivaloylpiperidin-4-yl)amino)benzamide | 0.03 g, 56% | BrC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C1)C)N(C1CCN(CC1)C(C(C)(C)C)=O)C | C27H37BrN4O3
